US06262040B1
1-Cyclopentyl-3-ethyl-6-phenyl-1H-indazole
This compound was prepared according to the method of Example 55, using 128 mg (0.437 mmol, 1.0 equiv) 6-bromo-1-cyclopentyl-3-ethyl-1H-indazole and 75 mg (0.612 mmol, 1.4 equiv) phenyl boronic acid as starting materials, to give 98 mg (77%) of white crystals: mp 72-74° C.; Anal. calcd for C20H22N2: C, 82.77; H, 7.64; N, 9.65. Found: C, 81.95; H, 7.82; N, 9.75.

reactant | 6-bromo-1-cyclopentyl-3-ethyl-1H-indazole | 0.437 mmol, 128 mg, 1.0 equiv | BrC1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C14H17BrN2
reactant | phenyl boronic acid | 0.612 mmol, 75 mg, 1.4 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-Cyclopentyl-3-ethyl-6-phenyl-1H-indazole | 98 mg, 77% | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C1=CC=CC=C1)CC | C20H22N2
